US04238505
Thallium tris(trifluoroacetate) (24.5 g, 0.045 mole) was added to a stirred solution of 16.8 g (0.090 mole) of (2,6-difluorophenyl)methyl acetate in 60 ml of trifluoroacetic acid. The reaction mixture was heated at 40°-50° C. for 15 minutes then 12.7 g (0.05 mole) of iodine was added. Upon complete addition the reaction mixture was heated under reflux for an additional 2 hours. The solvent was removed under reduced pressure and replaced with an equal volume of methylene chloride. The methylene chloride was removed under reduced pressure to give an oily residue. The residue was poured onto ice, using water and diethyl ether to rinse. The mixture was stirred for 30 minutes as 10 g of sodium metabisulfite and then 40 ml of a 5% aqueous solution of sodium hydroxide were added. The aqueous phase was separated and the organic phase was washed with two portions of water, one portion of a 5% aqueous solution of sodium thiosulfate, two portions of water, and finally one portion of a saturated aqueous solution of sodium chloride. The organic layer was dried with magnesium sulfate, filtered, and the filtrate concentrated under reduced pressure to give a residual oil. The oil was distilled under reduced pressure to give 10.5 g of (2,6-difluoro-3-iodophenyl)methyl acetate, b.p. 70°-80° C./2.2 mm. The nmr spectrum was consistent with the proposed structure.

reactant | Thallium tris(trifluoroacetate) | 0.045 mole, 24.5 g | FC(C(=O)[O-])(F)F.FC(C(=O)[O-])(F)F.FC(C(=O)[O-])(F)F.[Tl+3]
reactant | (2,6-difluorophenyl)methyl acetate | 0.090 mole, 16.8 g | C(C)(=O)OCC1=C(C=CC=C1F)F | C9H8F2O2
reactant | iodine | 0.05 mole, 12.7 g | II | I2
reactant | water | O | H2O
solvent | trifluoroacetic acid | 60 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (2,6-difluoro-3-iodophenyl)methyl acetate | 10.5 g | C(C)(=O)OCC1=C(C(=CC=C1F)I)F | C9H7F2IO2
